US06960598B2
5-Chloro-2-trifluoromethyl[1,8]naphthyridine (50 mg, 0.22 mmol) was coupled to 2,4-difluoro-3-(pyridin-3-yl)benzeneboronic acid (66 mg, 0.28 mmol) as described in Example 7 part g), affording 5-(2,4-difluoro-3-pyridin-3-ylphenyl)-2-trifluoromethyl[1,8]naphthyridine (27 mg, 34%). δH (360 MHz, CDCl3) 7.28 (1H, m), 7.42-7.49 (2H, m), 7.63 (1H, d, J 4.6), 7.84-7.88 (2H, m), 8.35 (1H, dd, J 2.3 and 8.6), 8.69 (1H, dd, J 1.8 and 4.9), 8.80 (1H, s), 9.33 (1H, d, J 4.2). m/z (ES+) 388 [MH]+.

reactant | 5-Chloro-2-trifluoromethyl[1,8]naphthyridine | 0.22 mmol, 50 mg | ClC1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C9H4ClF3N2
reactant | 2,4-difluoro-3-(pyridin-3-yl)benzeneboronic acid | 0.28 mmol, 66 mg | FC1=C(C=CC(=C1C=1C=NC=CC1)F)B(O)O | C11H8BF2NO2
product | 5-(2,4-difluoro-3-pyridin-3-ylphenyl)-2-trifluoromethyl[1,8]naphthyridine | 27 mg, 34% | FC1=C(C=CC(=C1C=1C=NC=CC1)F)C1=C2C=CC(=NC2=NC=C1)C(F)(F)F | C20H10F5N3
